US08492378B2
[2-chloro-4-(methoxycarbonyl)phenyl]boronic acid
To a mixture of 3-chloro-4-(dihydroxyboryl)benzoic acid (1.00 g, 5.10 mmol), N,N-dimethylformamide (10 mL) and diethyl ether (1 ml) was added dropwise a 0.6 M trimethylsilylazide-hexane solution (10.2 mL, 6.12 mmol), and the resulting mixture was stirred overnight at room temperature. Acetic acid was added to the reaction mixture, and the mixture was concentrated under reduced pressure. Water was added to the residue, and the precipitate was collected by filtration and recrystallized from water to give the title compound (0.46 g, yield 42%) as colorless crystals.

reactant | 3-chloro-4-(dihydroxyboryl)benzoic acid | 5.10 mmol, 1.00 g | ClC=1C=C(C(=O)O)C=CC1B(O)O | C7H6BClO4
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | diethyl ether | 1 ml | C(C)OCC | C4H10O
reactant | trimethylsilylazide hexane | 6.12 mmol, 0.6 M, 10.2 mL | C[Si](C)(C)N=[N+]=[N-].CCCCCC
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | [2-chloro-4-(methoxycarbonyl)phenyl]boronic acid | 0.46 g, yield 42% | ClC1=C(C=CC(=C1)C(=O)OC)B(O)O | C8H8BClO4
